US07098525B2
Synthesis of 4-(2,2′-dicyanopropyl) styrene.
A sample (2.53 g) of triethylamine (25 mmol) was added dropwise to a mixture of 4.01 g 4-vinylbenzyl chloride (25 mmol), 2.00 g monomethyl malonitrile (25 mmol), and 15 mL DMSO at room temperature. The mixture was stirred at room temperature for 17 hours then poured into 100 mL water. A pink solid precipitated and was filtered. The solid was recrystallized from a mixture of methanol and water to give 3.141 g (64%) of pinkish crystals.

reactant | triethylamine | 25 mmol, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-vinylbenzyl chloride | 25 mmol, 4.01 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | monomethyl malonitrile | 25 mmol, 2.00 g | CC(C#N)(O)CC#N | C5H6N2O
reactant | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 4-(2,2′-dicyanopropyl) styrene | 3.141 g, 64% | C(#N)C(CC1=CC=C(C=C)C=C1)(C)C#N | C13H12N2
